US07238671B2
2-Ethylphenyl boronic acid:
To a solution of 25 g (135 mmol) of 1-bromo-2-ethylbenzene in 280 mL of dry tetrahydrofuran, kept at −78° C. in an oven-dried 3 neck flask, was added slowly (keeping the temperature below −68° C.) 67.5 mL of 2.5N n-Butyl lithium in hexanes solution (169 mmol, 1.25 eq.). The reaction was stirred for an additional 1 h, and then 69 mL (405 mmol, 3 eq.) of triethylborate was added slowly, keeping the temperature below −68° C. The reaction was stirred for an additional 40 minutes and then the dry ice bath was removed, the reaction was allowed to warm up to room temperature, and then was poured into 300 mL of ice cold saturated ammonium chloride solution. 200 mL of ice cold ethyl acetate was added, and the mixture stirred for another 30 min. The layers were separated. The organic layer was washed with water, and brine. It was then dried over magnesium sulfate, and concentrated to give 19 g (92% yield) of product. The boronic acid was used without purification in the next step.

reactant | 1-bromo-2-ethylbenzene | 135 mmol, 25 g | BrC1=C(C=CC=C1)CC | C8H9Br
reactant | n-Butyl lithium | 2.5N, 67.5 mL | C(CCC)[Li]
reactant | triethylborate | 405 mmol, 69 mL, 3 eq. | C(C)OB(OCC)OCC | C6H15BO3
solvent | tetrahydrofuran | 280 mL | O1CCCC1 | C4H8O
product | 2-Ethylphenyl boronic acid | 19 g, 92% yield | C(C)C1=C(C=CC=C1)B(O)O | C8H11BO2
